US06521754B2
N-(4-Methoxy-7-phenyl-benzothiazol-2-yl)-6-pyrrolidin-1-yl-nicotinamide
To a solution of 6-chloro-N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-nicotinamide (297 mg, 0.75 mmol) in dioxane (10 ml) was added pyrrolidine (266 mg, 3.7 mmol, 5 eq.) and the mixture stirred at 100° C. for 2 h. After cooling the solvent was evaporated and the residue suspended in methanol (20 ml) at r.t., the solid was then filtered, washed with methanol and finally dried under vacuum (0.05 mmHg, 60° C.) to obtain the title compound as a white solid (230 mg, 71% yield), MS: m/e=431.4 (M+H+).

reactant | 6-chloro-N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-nicotinamide | 0.75 mmol, 297 mg | ClC1=NC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3=CC=CC=C3)OC)C=C1 | C20H14ClN3O2S
reactant | pyrrolidine | 3.7 mmol, 266 mg, 5 eq. | N1CCCC1 | C4H9N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N-(4-Methoxy-7-phenyl-benzothiazol-2-yl)-6-pyrrolidin-1-yl-nicotinamide | 230 mg, 71% yield | COC1=CC=C(C2=C1N=C(S2)NC(C2=CN=C(C=C2)N2CCCC2)=O)C2=CC=CC=C2 | C24H22N4O2S
